US07071175B1
(e) 2-(6-Amino-pyridin-3-ylmethyl)-2-mercaptomethyl-butyric acid
2-Acetylsulfanylmethyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-butyric acid ethyl ester (12.3 mg, 30 μmol) was dissolved in conc. HCl (2 mL) under argon. The solution was heated to reflux for 24 h. Concentration under reduced pressure gave the title compound as the hydrochloride salt (8.3 mg, 100%).

reactant | 2-Acetylsulfanylmethyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-butyric acid ethyl ester | 30 μmol, 12.3 mg | C(C)OC(C(CC)(CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C20H30N2O5S
solvent | HCl | 2 mL | Cl | ClH
product | 2-(6-Amino-pyridin-3-ylmethyl)-2-mercaptomethyl-butyric acid | NC1=CC=C(C=N1)CC(C(=O)O)(CC)CS | C11H16N2O2S
